US06369086B1
A solution of 3,3-dibromo-1,3-dihydro-2H-pyrrolo[2,3-b]pyridin-2-one (5.0 g, 13.4 mmol) in tert-BuOH (100 mL) and water (100 mL) was stirred at room temperature and bromine (5.5 g, 34.3 mmol) was added dropwise over 20 min. A saturated aqueous solution of sodium bicarbonate (approx. 15 mL) was added dropwise over 30 min to raise the pH of the solution to 6.5. The yellow solid formed was collected by filtration. The filtrate was condensed to approx. 100 mL and extracted with CHCl3 (2×50 mL). The combined organic extracts were dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to leave a yellow solid. The solids were combined and dried under vacuum to give 3,3,5-tribromo-1,3-dihydro-2H-pyrrolo[2,3-b]pyridin-2-one as a yellow solid, 6.25 g (98%). 1H NMR (CDCl3) δ9.4 (br s, 1H), 8.28 (d, 1H, J=2 Hz), 7.95 (d, 1H, J=2 Hz).

reactant | 3,3-dibromo-1,3-dihydro-2H-pyrrolo[2,3-b]pyridin-2-one | 13.4 mmol, 5.0 g | BrC1(C(NC2=NC=CC=C21)=O)Br | C7H4Br2N2O
reactant | bromine | 34.3 mmol, 5.5 g | BrBr | Br2
reactant | sodium bicarbonate | approx. 15 mL | C([O-])(O)=O.[Na+]
solvent | tert-BuOH | 100 mL | C(C)(C)(C)O | C4H10O
solvent | water | 100 mL | O | H2O
product | 3,3,5-tribromo-1,3-dihydro-2H-pyrrolo[2,3-b]pyridin-2-one | BrC1(C(NC2=NC=C(C=C21)Br)=O)Br | C7H3Br3N2O
